US08357703B2
6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-ethyl)-nicotinamide
As described for example 9, 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (500 mg, 1.4 mmol) was converted, using ethanolamine instead of rac-2-amino-1-propanol, to the title compound (280 mg, 60%) which was obtained as a colourless oil after purification by chromatography (silica, 0 to 5% methanol in dichloromethane). MS: m/e=334.3 [M+H]+.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 1.4 mmol, 500 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCCC)=O | C16H20N2O4
reactant | ethanolamine | C(O)CN | C2H7NO
product | 6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-ethyl)-nicotinamide | 280 mg, 60% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)NCCO)C=C1)C | C17H23N3O4
